US05198208
α-Aminobutyrolactone hydrobromide (10.0 g, 54.9 mmol), N-methylmorpholine (11.2 g, 110.0 mmol) and triphenylmethyl chloride (15.4 g, 55.2 mmol) were dissolved in N,N-dimethylformamide (DMF) (200 ml) (distilled from calcium hydride) and stirred at ambient temperature for 16 hours. The mixture was filtered, and water (200 ml) was added to the DMF-solution. The resulting slurry was stirred for 2 hours, the precipitate was filtered off and washed with a mixture of DMF and water (1:1, 50 ml). The solid was resuspended in water (100 ml), filtered and dried at 50° C. in vacuo. N-triphenylmethyl-α-aminobutyrolactone was isolated as a white solid. Yield 17.55 g (93.2%), mp 164.5°-165.5° C. (uncorrected).

reactant | α-Aminobutyrolactone hydrobromide | 54.9 mmol, 10.0 g | Br.NC1C(=O)OCC1
reactant | N-methylmorpholine | 110.0 mmol, 11.2 g | CN1CCOCC1 | C5H11NO
reactant | triphenylmethyl chloride | 55.2 mmol, 15.4 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | N-triphenylmethyl-α-aminobutyrolactone | C1(=CC=CC=C1)C(NC1C(=O)OCC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H21NO2
